data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2393,2658,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[NH+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([C:10]([CH3:11])=[O:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([C:10]([CH3:11])=[O:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]([CH3:24])([C:25]([CH3:26])=[O:27])[NH:22][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,23.57364963850645,-29.904016654816104
4242,4852,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([C:14]#[N:15])[C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14]#[N:15])([C:16]#[N:17])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,31.227653756769005,-0.8218642773757971
3216,3630,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]=[N:16]1,water,298.15,31.505256518647485,-6.958499798999948
3350,3801,[CH3:9][CH-:10][N+:11]#[C:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[CH:10]([CH3:9])[N:11]=[C:12]1[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,18.129816377107467,-50.7943805988588
3591,4099,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][C:16]1([CH3:17])[C:18]#[N:19],water,298.15,17.933825272025747,-37.1756966588441
588,644,[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][C:15]#[N+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3]12[C:4]([C:5]([CH3:6])=[O:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:15]([C:14]#[N:13])=[N:16][N:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,14.86920584550628,-49.42903148292734
5,5,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][CH:9]=[O+:10][O-:11]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:9]([CH3:8])[O:10][O:11]1,water,298.15,20.96980130379149,-57.78504555912068
4278,4894,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH:15]#[N+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:16]=[CH:15]2,water,298.15,6.031946022599094,-30.13266004663333
1015,1108,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[O+:18][N-:19][C:20]#[N:21].[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[O:18][N:19]2[C:20]#[N:21],water,298.15,7.36066916688869,-33.18696021787607
2355,2614,[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][C:27]([C:28]#[N:29])=[N+:30]([CH3:31])[N-:32][C:33]#[N:34]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:27]([CH3:26])([C:28]#[N:29])[N:30]([CH3:31])[N:32]2[C:33]#[N:34],water,298.15,17.797681428704852,-18.74178780822761
1384,1521,[CH3:15][CH:16]=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]([CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:17]([CH3:18])[CH:16]3[CH3:15],water,298.15,8.204906588963457,-56.42381249440708
2786,3096,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([N+:24]#[C:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[C:32](=[O:33])[O:34][CH3:35].[F:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:32](=[O:33])[O:34][CH3:35])[N:24]=[C:25]2[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,22.85177536327681,-39.79179347684766
